US08461160B2
To a solution of 5-(3-trifluoromethyl-pyrazol-1-yl)-pyridine-2-carboxylic acid methyl ester (67 mg) in MeOH (4 ml) and THF (0.5 ml) was added a solution of LiOH (23 mg) in water (1 ml) and stirring was continued at 22° C. for 22 h. The mixture was evaporated and the residue partitioned between 1 N aqueous HCl and ethyl acetate, the organic layer was washed with water, dried and evaporated to give 5-(3-trifluoromethyl-pyrazol-1-yl)-pyridine-2-carboxylic acid (63 mg) as a white solid. MS (ESI): m/z=255.9 [M−H]−.

reactant | 5-(3-trifluoromethyl-pyrazol-1-yl)-pyridine-2-carboxylic acid methyl ester | 67 mg | COC(=O)C1=NC=C(C=C1)N1N=C(C=C1)C(F)(F)F | C11H8F3N3O2
reactant | LiOH | 23 mg | [Li+].[OH-]
solvent | MeOH | 4 ml | CO | CH4O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 5-(3-trifluoromethyl-pyrazol-1-yl)-pyridine-2-carboxylic acid | 63 mg | FC(C1=NN(C=C1)C=1C=CC(=NC1)C(=O)O)(F)F | C10H6F3N3O2
